US07138415B2
N-[(1R 2R)-2-Amino-2,3-dihydro-1H-inden-1-yl]methanesulfonamide
(1R,2S)-1-Methanesulphonamido-2-methylsulphonyloxyindan (2.0 g, 6.56 mmol) was dissolved in dry dimethyl acetamide (20 ml). Sodium azide (1.7 g, 26.2 mmol) was added and the mixture heated to 90° C. for 1 hour. The reaction was cooled, diluted with EtOAc (100 ml), washed with water (6×50 ml), dried over magnesium sulphate and filtered. 10% Palladium on activated carbon was added and the mixture stirred under a hydrogen atmosphere for 3 hours. Filtration through celite followed by evaporation gave the title compound (1.25 g, 83%) as a pale green solid.

reactant | (1R,2S)-1-Methanesulphonamido-2-methylsulphonyloxyindan | 6.56 mmol, 2.0 g | CS(=O)(=O)N[C@H]1[C@H](CC2=CC=CC=C12)OS(=O)(=O)C | C11H15NO5S2
reactant | Sodium azide | 26.2 mmol, 1.7 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl acetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | N-[(1R 2R)-2-Amino-2,3-dihydro-1H-inden-1-yl]methanesulfonamide | 1.25 g, 83% | N[C@H]1[C@@H](C2=CC=CC=C2C1)NS(=O)(=O)C | C10H14N2O2S
